US03961937
1-Hydroxy-6-chloro-2-(trifluoromethyl)-1 H-imidazo-(4,5-b)pyridine (5 grams), 25 milliliters of acetic anhydride and 0.1 milliliter of sulfuric acid were mixed with stirring at 25°C. for 15 minutes. The reaction mixture was then heated to reflux and refluxed for one-half hour, poured into ice with stirring, stirred for 10 minutes and filtered. Filtration yielded the desired 1-acetoxy-6-chloro-2-(trifluoromethyl)-1H-imidazo(4,5-b)pyridine product as a solid. It was taken up in ether, dried over magnesium sulfate, and the ether evaporated. The product then melted at 103°-04°C.

reactant | 1-Hydroxy-6-chloro-2-(trifluoromethyl)-1 H-imidazo-(4,5-b)pyridine | 5 grams | ON1C(=NC2=NC=C(C=C21)Cl)C(F)(F)F | C7H3ClF3N3O
reactant | acetic anhydride | 25 milliliters | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.1 milliliter | S(O)(O)(=O)=O | H2O4S
product | 1-acetoxy-6-chloro-2-(trifluoromethyl)-1H-imidazo(4,5-b)pyridine | C(C)(=O)ON1C(=NC2=NC=C(C=C21)Cl)C(F)(F)F | C9H5ClF3N3O2
